US04602006
Ethyl 2-Benzyl-2-methyl-5-trimethylsilylpent-4-ynoate
To a solution of 2.2 ml (1.58 gm) of diisopropylamine in 20 ml of dry tetrahydrofuran, was added dropwise a solution of n-butyllithium (9.7 ml, 1.6M) at 0° C. The solution was stirred at 0° C. for 30 min, then cooled to -78° C. A solution of 2.5 gm of ethyl 3-phenyl-2-methylpropionate in 10 ml of dry tetrahydrofuran was added. After 30 min., 3 gm of trimethylsilylpropargyl bromide in 10 ml dry tetrahydrofuran was added. The mixture was warmed up to 0° C. slowly and maintained at 0° C. for 1.75 hours. The reaction mixture was quenched with 5% hydrochloric acid and partitioned between ether and 5% hydrochloric acid. The ethereal layer, washed with brine solution and water was dried and evaporated in an oil. The oil was chromatographed on silica gel (5% ethyl acetate; petroleum ether). This procedure yielded the title compound, IR: 2170, 1738 cm-1.

reactant | diisopropylamine | 2.2 ml, 1.58 gm | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 9.7 ml | C(CCC)[Li]
reactant | ethyl 3-phenyl-2-methylpropionate | 2.5 gm | C1(=CC=CC=C1)CC(C(=O)OCC)C | C12H16O2
reactant | trimethylsilylpropargyl bromide | 3 gm | C[Si](C)(C)C(C#C)Br | C6H11BrSi
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 2-Benzyl-2-methyl-5-trimethylsilylpent-4-ynoate | C(C1=CC=CC=C1)C(C(=O)OCC)(CC#C[Si](C)(C)C)C | C18H26O2Si
